US08541588B2
3-cyano-4-(2-bromo-6-methyl-phenoxy)-N-[1,2,4]thiadiazol-5-yl-benzenesulfonamide
To a solution of 2-bromo-6-methylphenol (6.0 mmol, 1120 mg) and K2CO3 (10.5 mmol, 1450 mg) in DMF (15.0 mL) was added 3-cyano-4-fluoro-N-(1,2,4-thiadiazol-5-yl)benzenesulfonamide (Preparation 65, 4.5 mmol, 1280 mg). The reaction mixture was heated at 80° C. After stirring for overnight at 80° C., the reaction was cooled to room temperature and poured into 1 N aqueous HCl (100 mL) to precipitate which was filtered to obtain solid. The solid was washed with water (100 mL) and heptane (100 mL) and the solid was dried under vacuum to furnish the title compound. LCMS Rt=3.05 minutes MS m/z 451 [M(79Br)H]+, 453 [M(81Br)H]+ 1HNMR (d6-DMSO): δ 2.17 (s, 3H), 6.70 (d, 1H), 7.25-7.31 (m, 1H), 7.44-7.48 (m, 1H), 7.64-7.69 (m, 1H), 8.01 (dd, 1H), 8.34 (d, 1H), 8.52 (s, 1H).

reactant | 2-bromo-6-methylphenol | 6.0 mmol, 1120 mg | BrC1=C(C(=CC=C1)C)O | C7H7BrO
reactant | K2CO3 | 10.5 mmol, 1450 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-cyano-4-fluoro-N-(1,2,4-thiadiazol-5-yl)benzenesulfonamide | 4.5 mmol, 1280 mg | C(#N)C=1C=C(C=CC1F)S(=O)(=O)NC1=NC=NS1 | C9H5FN4O2S2
reactant | HCl | 1 N, 100 mL | Cl | ClH
solvent | DMF | 15.0 mL | CN(C)C=O | C3H7NO
product | 3-cyano-4-(2-bromo-6-methyl-phenoxy)-N-[1,2,4]thiadiazol-5-yl-benzenesulfonamide | C(#N)C=1C=C(C=CC1OC1=C(C=CC=C1C)Br)S(=O)(=O)NC1=NC=NS1 | C16H11BrN4O3S2
